US05254595
A mixture of 2-aminotetralin (5 g) and 1-[1-(p-toluenesulfonyl)-indol-4-yloxy]-2,3-epoxypropane (11.7 g) in absolute ethanol (150 ml) is refluxed for 6 hours. The solvent is evaporated, the obtained residue is dissolved under stirring in hot isopropanol (100 ml) and the solution is made acidic by the addition of hydrochloric acid in isopropanol. The precipitate which forms is recovered by filtration, dissolved in a mixture of ethanol (250 ml) and aqueous sodium hydroxide (7.6 g in 85 ml of water). The reaction mixture is refluxed for 6 hours, the solvent is evaporated off and the residue is dissolved in ethyl acetate (200 ml). The obtained solution is washed twice with water, dried over sodium sulfate and concentrated by evaporating off the solvent. The residue is chromatographed on a silica gel column eluting with ethyl acetate. The fractions containing pure product are pooled. The solvent is evaporated and the residue is dissolved in ethyl ether (20 ml) and crystallized therefrom yielding 3.5 g of N-(1,2,3,4-tetrahydronaphth- 2-yl)-2-hydroxy-3-(4-indolyloxy)propanamine; m.p. 65°-68° C.

reactant | 2-aminotetralin | 5 g | NC1CC2=CC=CC=C2CC1 | C10H13N
reactant | 1-[1-(p-toluenesulfonyl)-indol-4-yloxy]-2,3-epoxypropane | 11.7 g | C1(=CC=C(C=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OCC1CO1)C | C18H17NO4S
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-(1,2,3,4-tetrahydronaphth- 2-yl)-2-hydroxy-3-(4-indolyloxy)propanamine | 3.5 g | C1C(CCC2=CC=CC=C12)NCC(COC1=C2C=CNC2=CC=C1)O | C21H24N2O2
